US07960394B2
2-{2-[(1-Cyclobutylpiperidin-4-yl)oxy]pyrimidin-5-yl}-8-methoxy-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 3-amino-2-methoxyisonicotinic acid, methylamine and 2-[(1-cyclobutylpiperidin-4-yl)oxy]pyrimidine-5-carbaldehyde.

reactant | 3-amino-2-methoxyisonicotinic acid | NC1=C(C(=O)O)C=CN=C1OC | C7H8N2O3
reactant | methylamine | CN | CH5N
reactant | 2-[(1-cyclobutylpiperidin-4-yl)oxy]pyrimidine-5-carbaldehyde | C1(CCC1)N1CCC(CC1)OC1=NC=C(C=N1)C=O | C14H19N3O2
product | 2-{2-[(1-Cyclobutylpiperidin-4-yl)oxy]pyrimidin-5-yl}-8-methoxy-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one | C1(CCC1)N1CCC(CC1)OC1=NC=C(C=N1)C=1N(C(C2=C(N1)C(=NC=C2)OC)=O)C | C22H26N6O3
